US06939866B2
A mixture of 2-amino-4-benzyloxy-5-methoxybenzamide (J. Med. Chem. 1977, 20, 146-149; 10 g), (3-dimethylamino-2-azaprop-2-en-1-ylidene)dimethylammonium chloride (Gold's reagent, 7.4 g) and dioxane (100 ml) was stirred and heated to reflux for 24 hours. Sodium acetate (3.02 g) and acetic acid (1.65 ml) were added and the reaction mixture was heated for a further 3 hours. The mixture was evaporated and water was added to the residue. The resultant solid was collected by filtration, washed with water and dried. The material was recrystallised from acetic acid to give 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (8.7 g).

reactant | 2-amino-4-benzyloxy-5-methoxybenzamide | 10 g | NC1=C(C(=O)N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H16N2O3
reactant | (3-dimethylamino-2-azaprop-2-en-1-ylidene)dimethylammonium chloride | 7.4 g | [Cl-].CN(C=NC=[N+](C)C)C
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | Sodium acetate | 3.02 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1.65 ml | C(C)(=O)O | C2H4O2
product | 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one | 8.7 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
